US09102641B2
The dehydration step is a step of supplying cumyl alcohol obtained in the epoxidation step to a dehydration catalyst to obtain α-methyl styrene and water. Examples of catalyst to be used include acids such as sulfuric acid, phosphoric acid, and p-toluenesulfonic acid; and metal oxides such as activated alumina, titania, zirconia, silica-alumina, and zeolite, of which activated alumina is preferable in view of separation from a reaction solution, catalyst life, and selectivity.

reactant | cumyl alcohol | C(C)(C)(C1=CC=CC=C1)O | C9H12O
solvent | water | O | H2O
product | α-methyl styrene | CC(=C)C1=CC=CC=C1 | C9H10
